US07585886B2
An 8 ml acetonitrile solution of 192 mg of 2-hydroxy-2-methylpropanoic acid was mixed with 392 mg of WSC hydrochloride, 62 mg of HOBt and 400 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[4-phenylpyrrolidin-3-yl]methyl}carbamate and stirred at 60° C. for 12 hours. After completion of the reaction, 30 ml of water was added thereto, and acetonitrile was evaporated. This was extracted with ethylamine, the organic layer was concentrated, and then the thus obtained residue was purified by a silica gel column chromatography (chloroform-ethyl acetate). This was further mixed with 2 ml of ethyl acetate and 0.5 ml of 4 M hydrogen chloride/ethyl acetate and stirred at 60° C. for 4 hours. After completion of the reaction, this was neutralized with saturated sodium bicarbonate aqueous solution, extracted with ethyl acetate and concentrated, and then the thus obtained residue was again purified by a silica gel column chromatography (chloroform-ethyl acetate), treated with 4 M hydrogen chloride/ethyl acetate and crystallized (ethyl acetate-hexane) to obtain 43 mg of 2-methyl-1-[3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-1-oxopropan-2-ol hydrochloride as a colorless solid

reactant | 2-hydroxy-2-methylpropanoic acid | 192 mg | OC(C(=O)O)(C)C | C4H8O3
reactant | WSC hydrochloride | 392 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 62 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[4-phenylpyrrolidin-3-yl]methyl}carbamate | 400 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)CC1CNCC1C1=CC=CC=C1 | C28H34N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 30 ml | O | H2O
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 2-methyl-1-[3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-1-oxopropan-2-ol hydrochloride | 43 mg | Cl.CC(C(=O)N1CC(C(C1)C1=CC=CC=C1)CN[C@H](C)C1=CC=CC2=CC=CC=C12)(C)O | InChI=1S/C27H32N2O2.ClH/c1-19(23-15-9-13-20-12-7-8-14-24(20)23)28-16-22-17-29(26(30)27(2,3)31)18-25(22)21-10-5-4-6-11-21;/h4-15,19,22,25,28,31H,16-18H2,1-3H3;1H/t19-,22?,25?;/m1./s1
